US06924284B2
To a solution 4-chloromethyl-2H-phthalazin-1-one (13 mg, 0.067 mmol) in DMA (400 μL) were added the amine (e.g., N-(2-amino-ethyl)-acetamide (8 mg, 0.08 mmol)) and DIPEA (14.3 μL, 0.08 mmol). The mixture was stirred overnight at RT, diluted with DMSO (400 μL) and purified by preparative HPLC to yield 4-[(2-amino-ethylamino)-methyl]-2H-phthalazin-1-one and the dialkylated compound. The purity was determined by RPLC/MS.

reactant | 4-chloromethyl-2H-phthalazin-1-one | 0.067 mmol, 13 mg | ClCC1=NNC(C2=CC=CC=C12)=O | C9H7ClN2O
reactant | DIPEA | 0.08 mmol, 14.3 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | DMA | 400 μL | CC(=O)N(C)C | C4H9NO
solvent | DMSO | 400 μL | CS(=O)C | C2H6OS
product | 4-[(2-amino-ethylamino)-methyl]-2H-phthalazin-1-one | NCCNCC1=NNC(C2=CC=CC=C12)=O | C11H14N4O
